** sch_path: /work/designs/g1-guardian/blocks/g1_gate/schematic/g1_lvlup.sch
.subckt g1_lvlup a y vdd vdda vss
*.ipin a
*.opin y
*.iopin vdd
*.iopin vdda
*.iopin vss
XI a ab vdd vss g1_lv_inv
XMN1 nb a vss vss sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1 mm_ok=1
XMN2 n ab vss vss sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1 mm_ok=1
XMP1 nb n vdda vdda sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XMP2 n nb vdda vdda sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XO nb y vdda vss g1_hv_inv
.ends

* expanding   symbol:  g1_lv_inv.sym # of pins=4
** sym_path: /work/designs/g1-guardian/blocks/g1_gate/schematic/g1_lv_inv.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_gate/schematic/g1_lv_inv.sch
.subckt g1_lv_inv a y vdd vss
*.ipin a
*.opin y
*.iopin vdd
*.iopin vss
XMP y a vdd vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1 mm_ok=1
XMN y a vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  g1_hv_inv.sym # of pins=4
** sym_path: /work/designs/g1-guardian/blocks/g1_gate/schematic/g1_hv_inv.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_gate/schematic/g1_hv_inv.sch
.subckt g1_hv_inv a y vdda vss
*.ipin a
*.opin y
*.iopin vdda
*.iopin vss
XMP y a vdda vdda sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1 mm_ok=1
XMN y a vss vss sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1 mm_ok=1
.ends

